US05185341
5-(p-chlorophenoxyacetamido)-uracil
1.87 g (0.01M) p-chlorophenoxyacetic acid is suspended with stirring in 30 ml dry dimethylformamide and dissolved by addition of 1. g (0.01M) triethylamine. The reaction mixture is cooled to 0° to 5° C. internal temperature, mixed with 1.1 g (0.1M) chloroformic acid ethyl ester and stirred one minute at its reaction temperature. To the reaction mixture of the mixed anhydrides one rapidly adds a solution of 1.27 g (0.01M) 5-aminouracil in dry dimethylformamide and stirs for 30 minutes. Subsequently the reaction mixture is poured into 1 liter ice water, the precipitate is filtered with suction, dried and recrystallized from water in the ratio 1:1.

reactant | p-chlorophenoxyacetic acid | 0.01M, 1.87 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | triethylamine | 0.01M | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid ethyl ester | 0.1M, 1.1 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | 5-aminouracil | 0.01M, 1.27 g | NC=1C(NC(NC1)=O)=O | C4H5N3O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-(p-chlorophenoxyacetamido)-uracil | ClC1=CC=C(OCC(=O)NC=2C(NC(NC2)=O)=O)C=C1 | C12H10ClN3O4
